US08624040B2
Step 2: ethyl 5-benzyl-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate
To a solution of 1-benzyl-4-chloro-5,5-dimethyl-1,2,5,6-tetrahydropyridine-3-carbaldehyde (75 g, 0.28 mol) in DCM (1.2 L) was added ethyl 2-mercaptoacetate (67 g, 0.56 mol) and triethylamine (85 g, 0.84 mol) was added slowly at room temperature. Upon complete addition, the reaction mixture was heated at reflux overnight. Upon cooling to room temperature, the reaction was quenched with the addition of water. The organic layer was washed with water, dried over anhydrous Na2SO4, concentrated and purified by silica gel chromatography (0-20% EtOAc/hexane) to afford the title compound (31.7 g, 27.5% over two steps).

reactant | 1-benzyl-4-chloro-5,5-dimethyl-1,2,5,6-tetrahydropyridine-3-carbaldehyde | 0.28 mol, 75 g | C(C1=CC=CC=C1)N1CC(=C(C(C1)(C)C)Cl)C=O | C15H18ClNO
reactant | ethyl 2-mercaptoacetate | 0.56 mol, 67 g | SCC(=O)OCC | C4H8O2S
reactant | triethylamine | 0.84 mol, 85 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 1.2 L | C(Cl)Cl | CH2Cl2
product | ethyl 5-benzyl-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 31.7 g, 27.5% | C(C1=CC=CC=C1)N1CC2=C(C(C1)(C)C)SC(=C2)C(=O)OCC | C19H23NO2S
